US07314888B1
In 26 ml of ethanol is dissolved 5.2 g of ethyl 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoate. After adding 6 ml of 5 mol/L aqueous solution of sodium hydroxide, the mixture is stirred at ambient temperature for 30 minutes. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively, and the solvent is distilled off from the reaction mixture under reduced pressure. Thus, 4.9 g of 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoic acid is obtained as a yellow solid product.

reactant | ethyl 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoate | 5.2 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OCC(C)C)C=C(C=C1)OCC(C)C | C30H42O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 26 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoic acid | 4.9 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC(C)C)C=C(C=C1)OCC(C)C | C28H38O6
